US07629342B2
To round bottom flask was added 6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine (37.6 mg, 0.10 mmol), 4-methyoxybenzyl alcohol (0.15 mmol), THF (1 ml) and 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine (BEMP) (30 mg, 0.11 mmol). The reaction was heated to 50° C. and stirred at this temperature for 40 hrs. The solvent was removed and the residue was purified using preparative HPLC to give pure product 7,8-bis(4-chlorophenyl)-6-(4-methoxybenzyloxy)-[1,2,4]triazolo[4,3-b]pyridazine as a solid. HPLC retention time (method C) 7.91 min; LCMS (M+H)=477.10.

reactant | 6-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.10 mmol, 37.6 mg | ClC=1C(=C(C=2N(N1)C=NN2)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4
reactant | 4-methyoxybenzyl alcohol | 0.15 mmol | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine | 0.11 mmol, 30 mg | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 7,8-bis(4-chlorophenyl)-6-(4-methoxybenzyloxy)-[1,2,4]triazolo[4,3-b]pyridazine | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1OCC1=CC=C(C=C1)OC)C=NN2)C2=CC=C(C=C2)Cl | C25H18Cl2N4O2
